US08530663B2
A solution of 4-(3-methoxycarbonylthiophen-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (4.2 g, 13 mmol, 1.0 eq.) and Pd(OH)2/C (1.0 g, 1.4 mmol, 0.1 eq.) in MeOH (150 mL) was degassed and purged with hydrogen (3×). The mixture was hydrogenated (1 atm) at room temperature overnight, then the vessel was evacuated and purged with nitrogen, and the material was filtered and washed with MeOH (100 mL). The filtrate was concentrated then again allowed to hydrogenate at 1 atm at room temperature overnight. Filtering again as above, and concentrating the filtrate provided 4-(3-methoxycarbonylthiophen-2-yl)piperidine-1-carboxylic acid t-butyl ester (3.2 g) as a white solid.

reactant | 4-(3-methoxycarbonylthiophen-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 13 mmol, 4.2 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1SC=CC1C(=O)OC | C16H21NO4S
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd(OH)2/C | 1.4 mmol, 1.0 g, 0.1 eq. | [OH-].[OH-].[Pd+2]
product | 4-(3-methoxycarbonylthiophen-2-yl)piperidine-1-carboxylic acid t-butyl ester | 3.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC=CC1C(=O)OC | C16H23NO4S
